US09403798B2
3-Methyl-1-{[(1,1,1-trifluoro-2-methylpropan-2-yl)oxy]carbonyl}-1H-imidazol-3-ium iodide
To a chloroform solution (10 mL) of 1,1,1-trifluoro-2-methylpropan-2-ol (500 mg, 3.90 mmol), 1,1′-carbonyldiimidazole (696 mg, 4.29 mmol) was added at room temperature and the resultant solution was stirred for 1 day. To the reaction solution, water was added and extraction with chloroform from the resultant mixture was performed twice. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. To an acetonitrile solution of the obtained residue, methyl iodide (2.21 g, 15.6 mmol) was added and the resultant mixture was stirred for 1 week. The reaction solution was concentrated under reduced pressure to obtain a crude product of the title compound and the crude product was used in the next reaction as it was.

reactant | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 1,1,1-trifluoro-2-methylpropan-2-ol | 3.90 mmol, 500 mg | FC(C(C)(O)C)(F)F | C4H7F3O
reactant | 1,1′-carbonyldiimidazole | 4.29 mmol, 696 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methyl iodide | 15.6 mmol, 2.21 g | CI | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-Methyl-1-{[(1,1,1-trifluoro-2-methylpropan-2-yl)oxy]carbonyl}-1H-imidazol-3-ium iodide | [I-].C[N+]1=CN(C=C1)C(=O)OC(C(F)(F)F)(C)C | InChI=1S/C9H12F3N2O2.HI/c1-8(2,9(10,11)12)16-7(15)14-5-4-13(3)6-14;/h4-6H,1-3H3;1H/q+1;/p-1
